US04423194
(a) 2-Dimethylaminoethyl 2-cyanoethyl ether
530 g of acrylonitrile are added dropwise to 890 g (10 mols) of dimethylaminoethanol and 0.3 g of dissolved sodium at room temperature. The mixture is left to stand for 24 hours and low-boiling constituents are distilled off.

reactant | acrylonitrile | 530 g | C(C=C)#N | C3H3N
reactant | dimethylaminoethanol | 10 mols, 890 g | CN(C)CCO | C4H11NO
reactant | sodium | 0.3 g | [Na] | Na
product | 2-Dimethylaminoethyl 2-cyanoethyl ether | C(#N)CCOCCN(C)C | C7H14N2O
